US06846929B2
1,2,2,6,6-Pentamethylpiperidin-4-yl 3-(5-Chlorobenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate
Methyl 3-(5-chlorobenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate (10.0 g, 0.026 mol) and 1,2,2,6,6-pentamethyl-4-hydroxypiperidine (3.98 g, 0.023 mol) are reacted together according to the procedure of Example 1. The title compound is obtained in a yield of 3.23 g (26%) as an off-white solid, melting at 150-158° C., whose structure is consistent with 1Hnmr and mass spectrometry. The compound has a molar absorptivity of 17,092 l/mole cm.

reactant | Methyl 3-(5-chlorobenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 0.026 mol, 10.0 g | ClC1=CC=2C(=NN(N2)C=2C=C(CCC(=O)OC)C=C(C2O)C(C)(C)C)C=C1 | C20H22ClN3O3
reactant | 1,2,2,6,6-pentamethyl-4-hydroxypiperidine | 0.023 mol, 3.98 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
product | 1,2,2,6,6-Pentamethylpiperidin-4-yl 3-(5-Chlorobenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | ClC1=CC=2C(=NN(N2)C=2C=C(CCC(=O)OC3CC(N(C(C3)(C)C)C)(C)C)C=C(C2O)C(C)(C)C)C=C1 | C29H39ClN4O3
